US08030487B2
Synthesis of 2-Chloro-5-[(Thiophene-2-carbonyl)-Amino]-Benzoic Acid (Intermediate 15)
5-Amino-2-chloro-benzoic acid (0.349 g, 2.03 mmol) was diluted with THF (12 mL), treated with thiophene-2-carbonyl chloride (0.240 mL, 2.23 mmol) and stirred overnight. Solvents were then removed and resulting solids were triturated with DCM. After filtration, the title compound was obtained as a white solid (0.5 g, 88%).

reactant | 5-Amino-2-chloro-benzoic acid | 2.03 mmol, 0.349 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | thiophene-2-carbonyl chloride | 2.23 mmol, 0.240 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5-[(Thiophene-2-carbonyl)-Amino]-Benzoic Acid | ClC1=C(C(=O)O)C=C(C=C1)NC(=O)C=1SC=CC1 | C12H8ClNO3S
